US04131611
To a stirred slurry of 61.2 g of 1-phenyl-1,2-cyclopropanedicarboximide (U.S. Pat. No. 3,166,571-Example VIII) in 2 liters of benzene is added 400 ml of sodium bis(2-methoxyethoxy)aluminum hydride 70% solution in benzene under nitrogen. The mixture is stirred at room temperature for 2 hours, refluxed for 4 hours and then stirred at room temperature for 20 hours. A 400 ml portion of 10N sodium hydroxide is added cautiously with stirring. The organic layer is washed twice with dilute sodium hydroxide and then with water, dried over magnesium sulfate and evaporated to give an amber oil. This oil is dissolved in dilute hydrochloric acid, washed with ether, filtered and the filtrate made basic with sodium hydroxide. The basic filtrate is extracted with benzene, dried over magnesium sulfate, filtered and evaporated to give 1-phenyl-3-azabicyclo[3.1.0]hexane as an amber oil. To a solution of 15.9 g of 1-phenyl-3-azabicyclo[3.1.0]hexane in 100 ml of benzene and 20 ml of triethylamine is added 11.0 g of cyclopropanecarboxylic acid chloride in 20 ml of benzene over 5 minutes. The mixture is stirred for 30 minutes and 50 ml of water is added. The benzene layer is extracted with dilute sodium bicarbonate followed by dilute hydrochloric acid and then water, dried over magnesium sulfate and evaporated to give the product 3-cyclopropylcarbonyl-1-phenyl-3-azabicyclo[3.1.0]hexane as a brown oil.

reactant | 1-phenyl-3-azabicyclo[3.1.0]hexane | 15.9 g | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | cyclopropanecarboxylic acid chloride | 11.0 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | 50 ml | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-cyclopropylcarbonyl-1-phenyl-3-azabicyclo[3.1.0]hexane | C1(CC1)C(=O)N1CC2(CC2C1)C1=CC=CC=C1 | C15H17NO
